US09216173B2
To a solution of 1,2-dibromo-6-chlorohexan-3-one in isopropanol (80% solution in water, 30 mL) at ambient temperature was added hydrazine hydrate (8.4 g, 170 mmol). After 16 hours, the reaction mixture was quenched with water (15 mL) and extracted with ethyl acetate (3×30 mL). The organic layers were dried over magnesium sulfate, filtered, and concentrated under reduced pressure to afford 3-(3-chloropropyl)-1H-pyrazole, which was used without further purification.

reactant | 1,2-dibromo-6-chlorohexan-3-one | BrCC(C(CCCCl)=O)Br | C6H9Br2ClO
reactant | hydrazine hydrate | 170 mmol, 8.4 g | O.NN
solvent | isopropanol | 30 mL | C(C)(C)O | C3H8O
product | 3-(3-chloropropyl)-1H-pyrazole | ClCCCC1=NNC=C1 | C6H9ClN2
